US07595327B2
According to the procedure of Example 10, Step 2, the reaction of 111 mg of trans-2-[methyl({4-[(2-methylquinolin-4-yl)methoxy]phenyl}sulfonyl)amino]cyclohex-anecarboxylic acid with hydroxylamine provided 71 mg of trans-N-hydroxy-2-[methyl({4-[(2-methylquinolin-4-yl)methoxy]phenyl}sulfonyl)amino]cyclohexanecarboxamide in 77% yield. MS: 484.1 (M+H)+

reactant | trans-2-[methyl({4-[(2-methylquinolin-4-yl)methoxy]phenyl}sulfonyl)amino]cyclohex-anecarboxylic acid | 111 mg | CN([C@H]1[C@@H](CCCC1)C(=O)O)S(=O)(=O)C1=CC=C(C=C1)OCC1=CC(=NC2=CC=CC=C12)C | C25H28N2O5S
reactant | hydroxylamine | NO | H3NO
product | trans-N-hydroxy-2-[methyl({4-[(2-methylquinolin-4-yl)methoxy]phenyl}sulfonyl)amino]cyclohexanecarboxamide | 71 mg, 77% yield | ONC(=O)[C@H]1[C@@H](CCCC1)N(S(=O)(=O)C1=CC=C(C=C1)OCC1=CC(=NC2=CC=CC=C12)C)C | C25H29N3O5S
